### PR TITLE
[Merged by Bors] - feat(Analysis/Distribution): Add memLp, toLp, toLpCLM, continuous_toLp for SchwartzMap

### PR DESCRIPTION
**Pull request by jvlmdr**
---

Some minor questions:
* I proved `Continuous (SchwartzMap.toLp : 𝓢(E, F) → ↥(Lp F p μ))` by bounding the norm of the L^p function using a finite family of Schwartz seminorms. I didn't show that the Schwartz functions are dense in L^p. I wonder whether it's possible/preferable to obtain Continuous using that method?
* Would it be better to remove `toLp` and rename `toLpCLM` to `toLp` to minimize the number of definitions and reduce clutter?

Note: I have also prepared #20372. Combining `ContinuousLinearMap.bilinearCompLpL` with `L1.integralCLM'` and `SchwartzMap.toLpCLM` will make it possible to define tempered distributions from functions in `L^p`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 1]
```diff
@@ -1215,4 +1215,144 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+theorem coeFn_toLp {f : 𝓢(E, F)} {p : ℝ≥0∞} {μ : Measure E} [hμ : μ.HasTemperateGrowth] :
+    f.toLp p μ =ᵐ[μ] f := (memℒp f p μ).coeFn_toLp
+
+theorem norm_toLp {f : 𝓢(E, F)} {p : ℝ≥0∞} {μ : Measure E} [hμ : μ.HasTemperateGrowth] :
+    ‖f.toLp p μ‖ = ENNReal.toReal (eLpNorm f p μ) := by
+  rw [Lp.norm_def, eLpNorm_congr_ae coeFn_toLp]
+
+variable (F) in
+/-- The map from Schwartz to `L^p` is injective when the measure is positive on non-empty sets. -/
+def embedding_toLp (p : ℝ≥0∞) (μ : Measure E := by volume_tac) [hμ : μ.HasTemperateGrowth]
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:1321]: Instead of writing out a new (bundled) definition, it is often more convenient to state this as the fact that `toLp` is an injective function. In practice, the type of embeddings is not used a lot throughout mathlib for this reason.

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks a lot. I think your design with `toLp` first, then upgraded to a continuous linear map, is very good like that.

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 2]
```diff
@@ -1215,4 +1215,144 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+
+open MeasureTheory
+open scoped ENNReal
+
+variable [NormedAddCommGroup D] [MeasurableSpace D] [MeasurableSpace E] [OpensMeasurableSpace E]
+  [NormedField 𝕜] [NormedSpace 𝕜 F] [SMulCommClass ℝ 𝕜 F]
+
+/-- For any `HasTemperateGrowth` measure and `p`, there exists an integer power `k` such that
+`(1 + ‖x‖) ^ (-k)` is in `L^p`. -/
+theorem _root_.MeasureTheory.Measure.HasTemperateGrowth.exists_eLpNorm_lt_top (p : ℝ≥0∞)
```
[the remark this answers is not in the document]
Comment (jvlmdr) [reply Mathlib/Analysis/Distribution/SchwartzSpace.lean:1230]: I've moved it closer to the definition of `Measure.HasTemperateGrowth` (and its property `exists_integrable`) in the same file. I thought perhaps it made more sense within `section Lp`, but either is fine by me!

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 3]
```diff
@@ -1215,4 +1215,144 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+      exact Real.rpow_le_rpow_of_exponent_le (by simp) (by simpa using hlk)
+
+variable (𝕜 F) in
+/-- The `L^p` norm of a Schwartz function is controlled by a finite family of Schwartz seminorms.
+
+The maximum index `k` and the constant `C` depend on `p` and `μ`.
+-/
+theorem eLpNorm_le_seminorm (p : ℝ≥0∞) (μ : Measure E := by volume_tac)
+    [hμ : μ.HasTemperateGrowth] :
+    ∃ (k : ℕ) (C : NNReal), ∀ (f : 𝓢(E, F)), eLpNorm f p μ ≤
```
[the remark this answers is not in the document]
Comment (jvlmdr) [reply Mathlib/Analysis/Distribution/SchwartzSpace.lean:1265]: Done

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 4]
```diff
@@ -1215,4 +1215,144 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+      C * ENNReal.ofReal ((Finset.Iic (k, 0)).sup (schwartzSeminormFamily 𝕜 E F) f) := by
+  -- Apply Hölder's inequality `‖f‖_p ≤ ‖f₁‖_p * ‖f₂‖_∞` to obtain the `L^p` norm of `f = f₁ • f₂`
+  -- using `f₁ = (1 + ‖x‖) ^ (-k)` and `f₂ = (1 + ‖x‖) ^ k • f x`.
+  rcases hμ.exists_eLpNorm_lt_top p with ⟨k, hk⟩
+  refine ⟨k, (eLpNorm (fun x ↦ (1 + ‖x‖) ^ (-k : ℝ)) p μ).toNNReal * 2 ^ k, fun f ↦ ?_⟩
+  have h_one_add (x : E) : 0 < 1 + ‖x‖ := lt_add_of_pos_of_le zero_lt_one (norm_nonneg x)
+  refine le_trans ?_ ?_
```
[the remark this answers is not in the document]
Comment (jvlmdr) [reply Mathlib/Analysis/Distribution/SchwartzSpace.lean:1272]: Thanks, that's much nicer. Done

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 5]
```diff
@@ -1215,4 +1215,144 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+    (b := eLpNorm (fun x ↦ (1 + ‖x‖) ^ (-k : ℝ)) p μ * eLpNorm (fun x ↦ (1 + ‖x‖) ^ k • f x) ⊤ μ)
+  · refine le_of_eq_of_le ?_ (eLpNorm_smul_le_eLpNorm_mul_eLpNorm_top p _ ?_)
+    · congr
+      funext x
+      simp [Real.rpow_neg (h_one_add x).le, (h_one_add x).ne']
+    · refine Continuous.aestronglyMeasurable ?_
+      exact .rpow_const (.add continuous_const continuous_norm) fun x ↦ .inl (h_one_add x).ne'
+  · rw [ENNReal.coe_mul, mul_assoc]
+    refine mul_le_mul' ?_ ?_
```
[the remark this answers is not in the document]
Comment (jvlmdr) [reply Mathlib/Analysis/Distribution/SchwartzSpace.lean:1281]: I wasn't familiar with this tactic, thanks!

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 6]
```diff
@@ -662,6 +663,37 @@ lemma integral_pow_mul_le_of_le_of_pow_mul_le
...
 
+/-- For any `HasTemperateGrowth` measure and `p`, there exists an integer power `k` such that
+`(1 + ‖x‖) ^ (-k)` is in `L^p`. -/
+theorem _root_.MeasureTheory.Measure.HasTemperateGrowth.exists_eLpNorm_lt_top (p : ℝ≥0∞)
+    {μ : Measure D} (hμ : μ.HasTemperateGrowth) :
+    ∃ k : ℕ, eLpNorm (fun x ↦ (1 + ‖x‖) ^ (-k : ℝ)) p μ < ⊤ := by
+  cases p with
+  | top => exact ⟨0, eLpNormEssSup_lt_top_of_ae_bound (C := 1) (by simp)⟩
+  | coe p =>
+    cases Decidable.eq_or_ne (p : ℝ≥0∞) 0 with
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:674]:
```suggestion
    cases eq_or_ne (p : ℝ≥0∞) 0 with
```

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 7]
```diff
@@ -662,6 +663,37 @@ lemma integral_pow_mul_le_of_le_of_pow_mul_le
...
+    | inl hp => exact ⟨0, by simp [hp]⟩
+    | inr hp =>
+      have h_one_add (x : D) : 0 < 1 + ‖x‖ := lt_add_of_pos_of_le zero_lt_one (norm_nonneg x)
+      have hp_pos : 0 < (p : ℝ) := by simpa [zero_lt_iff] using hp
+      rcases hμ.exists_integrable with ⟨l, hl⟩
+      have hlk : l ≤ ⌈(l / p : ℝ)⌉₊ * (p : ℝ) := by
+        simpa [div_le_iff₀ hp_pos] using Nat.le_ceil (l / p : ℝ)
+      generalize ⌈(l / p : ℝ)⌉₊ = k at hlk
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:682]:
```suggestion
      let k := ⌈(l / p : ℝ)⌉₊
      have hlk : l ≤ k * (p : ℝ) := by simpa [div_le_iff₀ hp_pos] using Nat.le_ceil (l / p : ℝ)
```
`generalize` is a little bit strange here, better use `let` or `set`.

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 8]
```diff
@@ -1215,4 +1247,112 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+  _ = eLpNorm ((fun x : E ↦ (1 + ‖x‖) ^ (-k : ℝ)) • fun x ↦ (1 + ‖x‖) ^ k • f x) p μ := by
+    refine congrArg (eLpNorm · p μ) (funext fun x ↦ ?_)
+    simp [Real.rpow_neg (h_one_add x).le, (h_one_add x).ne']
+  _ ≤ eLpNorm (fun x ↦ (1 + ‖x‖) ^ (-k : ℝ)) p μ * eLpNorm (fun x ↦ (1 + ‖x‖) ^ k • f x) ⊤ μ := by
+    refine eLpNorm_smul_le_eLpNorm_mul_eLpNorm_top p _ ?_
+    refine Continuous.aestronglyMeasurable ?_
+    exact .rpow_const (.add continuous_const continuous_norm) fun x ↦ .inl (h_one_add x).ne'
+  _ ≤ eLpNorm (fun x ↦ (1 + ‖x‖) ^ (-k : ℝ)) p μ *
+      (2 ^ k * ENNReal.ofReal (((Finset.Iic (k, 0)).sup (schwartzSeminormFamily 𝕜 E F)) f)) := by
+    gcongr _ * ?_
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:1284]:
```suggestion
    gcongr
```
`gcongr` is clever enough to match things by itself most of the time. The advanced syntax is only useful in more specific situations where it gets it wrong.

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 9]
```diff
@@ -1215,4 +1247,112 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+    rw [eLpNorm_exponent_top]
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:1285]:
```suggestion
```

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 10]
```diff
@@ -1215,4 +1247,112 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+  rcases f.decay 0 0 with ⟨C, _, hC⟩
+  refine memℒp_top_of_bound f.continuous.aestronglyMeasurable C (ae_of_all μ fun x ↦ ?_)
+  simpa using hC x
+
+/-- Schwartz functions are in `L^p` for any `p`. -/
+theorem memℒp (f : 𝓢(E, F)) (p : ℝ≥0∞) (μ : Measure E := by volume_tac)
+    [hμ : μ.HasTemperateGrowth] : Memℒp f p μ :=
+  ⟨f.continuous.aestronglyMeasurable, f.eLpNorm_lt_top p μ⟩
+
+/-- Schwartz functions are in `L^p` for any `p`. -/
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:1314]: The docstring gives the impression this is a theorem and not a definition. Can you adapt it?

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 11]
```diff
@@ -1215,4 +1247,112 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+  simpa using hC f
+
+variable (𝕜 F) in
+/-- Continuous linear map from Schwartz functions to `L^p`. -/
+def toLpCLM (p : ℝ≥0∞) [Fact (1 ≤ p)] (μ : Measure E := by volume_tac)
+    [hμ : μ.HasTemperateGrowth] : 𝓢(E, F) →L[𝕜] Lp F p μ :=
+  mkCLMtoNormedSpace (fun f ↦ f.toLp p μ) (fun _ _ ↦ rfl) (fun _ _ ↦ rfl)
+    (by
+      rcases norm_toLp_le_seminorm 𝕜 F p μ with ⟨k, C, hC_pos, hC⟩
+      exact ⟨Finset.Iic (k, 0), C, hC_pos, hC⟩)
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:1348]:
```suggestion
  mkCLMtoNormedSpace (fun f ↦ f.toLp p μ) (fun _ _ ↦ rfl) (fun _ _ ↦ rfl) <| by
    rcases norm_toLp_le_seminorm 𝕜 F p μ with ⟨k, C, hC_pos, hC⟩
    exact ⟨Finset.Iic (k, 0), C, hC_pos, hC⟩
```

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 12]
```diff
@@ -1215,4 +1247,112 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+
+theorem toLpCLM_apply {p : ℝ≥0∞} [Fact (1 ≤ p)] {μ : Measure E} [hμ : μ.HasTemperateGrowth]
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:1350]:
```suggestion
@[simp] theorem toLpCLM_apply {p : ℝ≥0∞} [Fact (1 ≤ p)] {μ : Measure E} [hμ : μ.HasTemperateGrowth]
```

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 13]
```diff
@@ -1215,4 +1247,112 @@ def toZeroAtInftyCLM : 𝓢(E, F) →L[𝕜] C₀(E, F) :=
...
+    {f : 𝓢(E, F)} : toLpCLM 𝕜 F p μ f = f.toLp p μ := rfl
+
+theorem continuous_toLp {p : ℝ≥0∞} [Fact (1 ≤ p)] {μ : Measure E} [hμ : μ.HasTemperateGrowth] :
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:1353]:
```suggestion
@[fun_prop]
theorem continuous_toLp {p : ℝ≥0∞} [Fact (1 ≤ p)] {μ : Measure E} [hμ : μ.HasTemperateGrowth] :
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by jvlmdr** [comment]
Thanks for the review and the suggestions, much appreciated!

bors r+

**Comment by jvlmdr** [comment]
Rebased and made fixes

bors r+
